Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
claudication
 
Major Surgical or Invasive Procedure:
Diagnostic Angiogram

 
History of Present Illness:
___ F Restenosis of her right SFA angioplasty and stent and her 
popliteal artery
 
Past Medical History:
1. Sciatica with h/o laminectomy.  
2. DM1 for ___ years, on insulin pump, with gastroparesis  
3. Hypercholesterolemia  
4. h/o CP in ___, cardiac cath clean - sx's felt to be ?spasms. 
 
5. HTN  
6. Hiatal hernia  
7. s/p hysterectomy  
8. Hypothyroidism  
 
Social History:
___
Family History:
Mother MI ___
Father MI ___
 
Physical Exam:
PE:

___

NEURO:

PERRL / EOMI

MAE equally

Answers simple commands

Neg pronator drift

Sensation intact to ST

2 plus DTR

___

___:

NCAT 

Neg lesions nares, oral pharnyx, auditory

Supple / FAROM

neg lyphandopathy, supra clavicular nodes

LUNGS: CTA b/l

CARDIAC: RRR without murmers

ABDOMEN: Soft, NTTP, ND, pos BS, neg CVA tenderness

EXT:

Pulses: Fem DP  ___  
Rt      1+  pal dopp  
Lt      pal pal pal  

 
Pertinent Results:
___ 06:00AM BLOOD 

WBC-5.8 RBC-4.34 Hgb-12.7 Hct-40.5 MCV-94 MCH-29.4 MCHC-31.5 
RDW-14.7 Plt ___

___ 10:11AM BLOOD 

UreaN-25* Creat-1.5* Na-134 K-4.5 Cl-97 HCO3-29 AnGap-13

___ 10:11AM BLOOD 

___ PTT-32.7 ___   was admitted on ___ with  R lower extremity  
claudication. Agreed to have an elective surgery. 
Pre-operatively, she was consented. A CXR, EKG, UA, CBC,  
Electrolytes, T/S - were obtained,  all other preperations were 
made.

It was decided that he would undergo:

OPERATION PERFORMED:
1. Puncture of right common femoral artery.
2. Contralateral second-order catheterization of left
    common femoral artery.
3. Abdominal aortogram.
4. Right lower extremity angiogram.

Prepped, and brought down to the endo suite room for  surgery. 
Intra-operatively, she was closely monitored and remained 
hemodynamically stable. She tolerated the procedure well  
without any difficulty or complication.

Post-operatively, transferred to the PACU for further 
stabilization and monitoring. 

His sheath was pulled wihtout sequele.

She was then transferred to the VICU for further recovery. While 
in the VICU she recieved monitered care. When stable she was 
delined. Her diet was advanced.  When she was stabalized from 
the acute setting of post operative care, she was transfered to 
floor status 

On the floor, she remained hemodynamically stable with her pain 
controlled. She continues to make steady progress without any 
incidents. She was discharged home in stable condition.

She did recieve preoperative hydration. On DC her creatinine is 
stable.

She will get a PMIBI, clearence from her cardiologist. Then 
surgery in the near future.

 
Medications on Admission:
 Calcitriol 0.5 mcg, Citalopram 20 mg, Cyclosporine0.05 % 
Dropperette 2 drops to both eyes twice a day, Erythromycin 5 
mg/gram Ointment apply bid to both eyes, Gabapentin 800 mg 
Tablet 2 Tablet q am, HUMALOG USE AS DIRECTED FOR IDDM AND 
INSULIN PUMP, Hydrochlorothiazide 12.5 mg, Glargine ___t bedtime Levothyroxine, 75 mcg, Lisinopril 5 mg, 0.5 mg Tablet 
qpm, Loteprednol Etabonate 0.5 % Drops, Suspension 1 drop bid 
prn, Metoclopramide 10 mg Tablet, 30 minutes before meals, 
Mupirocin Calcium [Bactroban] 2 % Cream apply ___ qd prn, 
OxyContin10 mg Tablet Sustained Release 12 hr 4 Tablet(s) by 
mouth in the morning and 1 tab by mouth in the evening, 
Oxycodone-Acetaminophen 5 mg-325 mg PRN, Pantoprazole 40 mg, 
Simvastatin [Zocor] 40 mg, Ascorbic Acid ___ mg Capsule, 
Sustained Release 2 Capsule(s) by mouth qam, Aspirin 81 mg, 
Carboxymethylcellulose Sodium [Refresh] 1 % Drops, Flaxseed Oil, 
Iron, Multivitamin, Nicotine 4 mg Lozenge, PEG 400-Propylene 
Glycol [Systane] 0.3 %-0.4 % Dropperette 1 drop as needed, 
Vitamin E 400 unit 
 
Discharge Medications:
1. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
2. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
3. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Cyclosporine 0.05 % Dropperette Sig: One (1) Dropperette 
Ophthalmic BID (2 times a day).  
5. Erythromycin 5 mg/g Ointment Sig: One (1)  Ophthalmic BID (2 
times a day).  
6. Gabapentin 400 mg Capsule Sig: Four (4) Capsule PO DAILY 
(Daily).  
7. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. Insulin
no ___ take as prescribed
9. Oxycodone 10 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO Q12H (every 12 hours).  
10. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS 
(4 times a day (before meals and at bedtime)).  
12. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Other Meds
Please take as directed. No ___ in your medications

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
claudication

 
Discharge Condition:
stable

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Lower Extremity Angioplasty/Stent Discharge Instructions

Medications:
•Take Aspirin 325mg (enteric coated) once daily 
•If instructed, take Plavix (Clopidogrel) 75mg once daily
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications
•Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and ultrasound 

What to report to office:
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___